US07858632B2
To a solution of 2-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenol dissolved in acetic acid (50 mL) was added 10% palladium on charcoal (500 mg), water (6 mL), and ammonium formate (7.82 g, 124 mmol). After refluxing for 1 hour, the reaction was cooled and filtered through celite. The celite pad was washed with ethyl acetate (500 mL). Water (300 mL) was added to the filtrate, and the mixture was basified (pH=8) using solid sodium bicarbonate. The ethyl acetate layer was collected and washed with water, brine, dried using anhydrous sodium sulfate and concentrated to yield 2-Isopropyl-3-methoxy-phenol (3.68 g, 92%) as pale yellow solid.

reactant | 2-(1-Hydroxy-1-methyl-ethyl)-3-methoxy-phenol | OC(C)(C)C1=C(C=CC=C1OC)O | C10H14O3
reactant | water | 6 mL | O | H2O
reactant | ammonium formate | 124 mmol, 7.82 g | C(=O)[O-].[NH4+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | 2-Isopropyl-3-methoxy-phenol | 3.68 g, 92% | C(C)(C)C1=C(C=CC=C1OC)O | C10H14O2
